US07465801B2
5-Ethyl-2-oxiranyl-pyridine (6)
To a stirred solution of 400 g (2.974 mol) 5-ethyl-2-vinyl-pyridine dissolved in a mixture of 1000 mL of dimethyl sulfoxide and 106 mL water, was added 741.9 g (4.16 mol) N-bromosuccinimide at 0 to −5° C. Reaction mixture was stirred for 1 hr. The progress of reaction was monitored by TLC and after complete consumption of 5-ethyl-2-vinyl-pyridine, 833 g (6.015 mol) of K2CO3 along with 400 mL methanol was added at 25-30° C. Stirring was continued for 1 hr. and after subsequent work-up 358.49 g (80%) of the desired product was obtained.

reactant | 5-ethyl-2-vinyl-pyridine | 2.974 mol, 400 g | C(C)C=1C=CC(=NC1)C=C | C9H11N
reactant | N-bromosuccinimide | 4.16 mol, 741.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | K2CO3 | 6.015 mol, 833 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methanol | 400 mL | CO | CH4O
solvent | dimethyl sulfoxide | 1000 mL | CS(=O)C | C2H6OS
solvent | water | 106 mL | O | H2O
product | 5-Ethyl-2-oxiranyl-pyridine | 358.49 g, 80% | C(C)C=1C=CC(=NC1)C1OC1 | C9H11NO
